US07449456B2
2-[1-(4-Nitrophenyl)piperidin-4-yl]ethanol and methanesulfonyl chloride were allowed to undergo the reaction in THF in the presence of triethylamine. The resulting compound and morpholine were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidine. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 4-[4-(2-morpholin-4-ylethyl)piperidin-1-yl]aniline. NMR2 (CDCl3): 3.21-3.45 (4H, m), 3.71-3.80 (4H, m) 6.63-6.66 (2H, m).

reactant | 2-[1-(4-Nitrophenyl)piperidin-4-yl]ethanol | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)CCO | C13H18N2O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-(2-morpholin-4-ylethyl)piperidin-1-yl]aniline | N1(CCOCC1)CCC1CCN(CC1)C1=CC=C(N)C=C1 | C17H27N3O
